US07435815B2
N,N-Diethyl-2-[((E)-2-phenyl-ethenesulfonyl)-p-tolyl-amino]-acetamide
prepared by reaction of 2-bromo-N,N-diethylacetamide with p-toluidine and (E)-2-phenyl-ethenesulfonyl chloride

reactant | 2-bromo-N,N-diethylacetamide | BrCC(=O)N(CC)CC | C6H12BrNO
reactant | p-toluidine | NC1=CC=C(C=C1)C | C7H9N
reactant | (E)-2-phenyl-ethenesulfonyl chloride | C1(=CC=CC=C1)/C=C/S(=O)(=O)Cl | C8H7ClO2S
product | N,N-Diethyl-2-[((E)-2-phenyl-ethenesulfonyl)-p-tolyl-amino]-acetamide | C(C)N(C(CN(C1=CC=C(C=C1)C)S(=O)(=O)\C=C\C1=CC=CC=C1)=O)CC | C21H26N2O3S
